Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
paralysis right hand
 
Major Surgical or Invasive Procedure:
intrinsic tendon transfer

 
History of Present Illness:
___ yo ___ with a hx of injury to right brachial plexus in 
___, with residual paralysis of right upper limb
 
Past Medical History:
Osteoarthritis both hips. Left total hip arthroplasty, ___.
History of steroid use
Asthma
Cluster headaches
s/p CABGx4
Prior Etoh usage  
psych
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
clawing of right hand
 
Pertinent Results:
none
 
Brief Hospital Course:
admitted after uncomplicated surgery. discharged following day 
without incident.
 
Medications on Admission:
neurontin,metoprolol,lipitor,zoloftpepcid, methadone
 
Discharge Medications:
same
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
paralysis right hand

 
Discharge Condition:
stable both mentally and physically, ambulatory

 
Discharge Instructions:
keep right hand clean dry elevated
 
Followup Instructions:
___